US08222256B2
6-Chloro-N4-(5-cyclopropyl-1H-pyrazol-3-yl)-N2-(3-phenylisoxazol-5-ylmethyl)-pyrimidine-2,4-diamine.
To a solution of 2,6-dichloropyrimidin-4-yl-(5-cyclopropyl-1H-pyrazol-3-yl)-amine (19.3 g, 71.7 mmol) in 1-butanol (200 mL) was added diisopropylethylamine (23.7 mL, 143 mmol) and 3-phenylisoxazol-5-ylmethylamine (15.0 g, 86.1 mmol). The mixture was stirred at 90° C. for 30 h, then concentrated on a rotary evaporator. The residue was taken up in 100 mL of methanol and boiled until the volume reached around 50 mL. The solution was allowed to cool to room temperature and then placed in the refrigerator overnight. The solid that formed was collected by filtration, while the filtrate was dissolved in dichloromethane and sonicated. The solid that formed was collected and combined with the first recrystallized crop to give the desired product (17.8 g, 61%) as a white solid.

reactant | 2,6-dichloropyrimidin-4-yl-(5-cyclopropyl-1H-pyrazol-3-yl)-amine | 71.7 mmol, 19.3 g | ClC1=NC(=CC(=N1)NC1=NNC(=C1)C1CC1)Cl | C10H9Cl2N5
reactant | diisopropylethylamine | 143 mmol, 23.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-phenylisoxazol-5-ylmethylamine | 86.1 mmol, 15.0 g | C1(=CC=CC=C1)C1=NOC(=C1)CN | C10H10N2O
solvent | 1-butanol | 200 mL | C(CCC)O | C4H10O
product | 6-Chloro-N4-(5-cyclopropyl-1H-pyrazol-3-yl)-N2-(3-phenylisoxazol-5-ylmethyl)-pyrimidine-2,4-diamine | 17.8 g, 61% | ClC1=CC(=NC(=N1)NCC1=CC(=NO1)C1=CC=CC=C1)NC1=NNC(=C1)C1CC1 | C20H18ClN7O
